* C:\Users\tomii\Github\facultad\Medidas\TP Spice\Problema4.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 N003 SINE(0 20 50 0 0 0 0)
C1 N002 0 1000µ
D1 N001 N002 1N4007
R1 N002 0 100k
D2 N003 N002 1N4007
D3 0 N003 1N4007
D4 0 N001 1N4007
.model D D
.lib C:\Users\tomii\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1
.backanno
.end
